US09353085B2
Following the above procedure, Suzuki coupling of 3.8 g of 7-acetyl-12-bromo-7H-dibenzo [a,g]carbazole and 2.7 g of (4-benzo[d]thiazol-2-yl) phenylboronic acid were stirred together in 30 ml of toluene. To this was added 0.02 g of tetrakis(triphenylphosphine)palladium, 2.1 g of potassium carbonate and 10 ml of aqueous ethanol were added and refluxed under nitrogen for 6 h. The reaction was quenched with water and the toluene layer was removed and passed through a celite column. The organic layers were combined and then evaporated in a rotary evaporator under vacuum to yield 4.1 g of 7-acetyl-12-[4-benzo[d]thiazol-2-yl) phenyl]-7H-dibenzo[a,g]carbazole as a white solid.

reactant | 7-acetyl-12-bromo-7H-dibenzo [a,g]carbazole | 3.8 g | C(C)(=O)N1C2=CC=C3C(=C2C2=CC(=C4C(=C12)C=CC=C4)Br)C=CC=C3 | C22H14BrNO
reactant | (4-benzo[d]thiazol-2-yl) phenylboronic acid | 2.7 g | S1C(=NC2=C1C=CC=C2)C2=CC=C(C=C2)B(O)O | C13H10BNO2S
reactant | potassium carbonate | 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7H-dibenzo[a,g]carbazole | C1=CC=CC=2C1=C1C3=CC=C4C(=C3NC1=CC2)C=CC=C4 | C20H13N
